US06635657B1
Using methods substantially equivalent to those described in Example 259-A, 2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-y)-5-iodobenzamide was condensed with acrylonitrile. From the reaction mixture was isolated (Z)-2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-(2-cyanovinyl)benzamide (0.19 g, 19%), as well as the (E)-isomer (see prior example).

reactant | 2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-y)-5-iodobenzamide | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)I | C23H26ClIN4O4
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | (Z)-2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-(2-cyanovinyl)benzamide | 0.19 g, 19% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)\C=C/C#N | C26H28ClN5O4
